US07411072B2
5-(3-Trifluoromethyl-benzyl)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene
Add 5-(3-trifluoromethyl-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (0.145 g, 0.41 mmol), to a mixture of 10% Pd/C (0.04 g) suspended in absolute ethanol (4.0 mL) and ethyl acetate (4.0 mL) and hydrogenate under a balloon of hydrogen at room temperature and pressure. Stir for 17 h, remove the catalyst via filtration through a pad of Celite. Evaporate the filtrate and pass through a plug of silica gel equilibrated with hexanes. Concentrated the filtrate to give the title product. MS (m/e): 352 (M+); GC retention time=7.11 min.

reactant | 5-(3-trifluoromethyl-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 0.41 mmol, 0.145 g | FC(C=1C=C(C=C2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C=CC1)(F)F | C23H17F3
reactant | ethyl acetate | 4.0 mL | C(C)(=O)OCC | C4H8O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 4.0 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.04 g | [Pd] | Pd
product | 5-(3-Trifluoromethyl-benzyl)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | FC(C=1C=C(CC2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C=CC1)(F)F | C23H19F3
